US06121308
1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-indole
Prepared analogously to Example 3 from 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sul-phonylamino]-indole and sodium hydroxide solution.

reactant | 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-quinoline-8-sul-phonylamino]-indole | CN1C(=CC2=CC(=CC=C12)N(CC(=O)OCC)S(=O)(=O)C=1C=CC=C2C=CC=NC12)CCC1=CC=C(C=C1)C(N)=N | C31H31N5O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-quinoline-8-sulphonylamino]-indole | CN1C(=CC2=CC(=CC=C12)N(CC(=O)O)S(=O)(=O)C=1C=CC=C2C=CC=NC12)CCC1=CC=C(C=C1)C(N)=N | C29H27N5O4S
